US04218458
A mixture of 20 parts of 4-(4-ethoxyphenyl)-2-(ethylthio)-1-methyl-1H-imidazole and 37.5 parts of hydrobromic acid solution 48% in glacial acetic acid is stirred and refluxed for 3 hours. The reaction mixture is cooled and neutralized with sodium hydrogen carbonate. The precipitated product is filtered off and crystallized from 4-methyl-2-pentanone, yielding 5 parts of 4-[2-(ethylthio)-1-methyl-1H-imidazol-4-yl]phenol; mp. 209.9° C.

reactant | 4-(4-ethoxyphenyl)-2-(ethylthio)-1-methyl-1H-imidazole | C(C)OC1=CC=C(C=C1)C=1N=C(N(C1)C)SCC | C14H18N2OS
reactant | hydrobromic acid | Br | BrH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[2-(ethylthio)-1-methyl-1H-imidazol-4-yl]phenol | C(C)SC=1N(C=C(N1)C1=CC=C(C=C1)O)C | C12H14N2OS
